US05516774
5,6-Dihydro-6-(4-nitrobenzoyl)-4H-[1,2,4]triazolo-[4,3-a][1,5]benzodiazepin
To a mixture of 3 mmol of 5,6-dihydro-4H-[1,2,4]-triazolo[4,3-a][1,5]benzodiazepine in 10 ml of dichloromethane under argon is added 5 mmol of triethylamine. To the mixture is added dropwise 3.3 mmol of 4-nitrobenzoyl chloride in 3 ml of dichloromethane. The mixture is stirred at room temperature 3 hours and then washed with water, aqueous NaHCO3 and brine. The organic layer is dried (Na2SO4) and the solvent removed under vacuum. The residue is purified by chromatography on silica gel to give the desired product as a solid.

reactant | 5,6-dihydro-4H-[1,2,4]-triazolo[4,3-a][1,5]benzodiazepine | 3 mmol | C1=NN=C2N1C1=C(NCC2)C=CC=C1 | C10H10N4
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 3.3 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 5,6-Dihydro-6-(4-nitrobenzoyl)-4H-[1,2,4]triazolo-[4,3-a][1,5]benzodiazepin | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=NN3)C=C1 | C17H13N5O3
